US06500863B1
2,6-dichloro- -(4-morpholinylsulfonyl)-3-nitrobenzene
Following the general procedure for sulfonamide formation outlined in example 15, 2,6-dichloro-3-nitrobenzenesulfonyl chloride (500 mg, 1.72 mmol), morpholine (150 mg, 1.72 mmol) and triethylamine(479 μL, 3.44 mmol) were reacted to form the desired product (430 mg, 73%). LC-MS (m/z) 341.0 (M−).

reactant | 2,6-dichloro-3-nitrobenzenesulfonyl chloride | 1.72 mmol, 500 mg | ClC1=C(C(=CC=C1[N+](=O)[O-])Cl)S(=O)(=O)Cl | C6H2Cl3NO4S
reactant | morpholine | 1.72 mmol, 150 mg | N1CCOCC1 | C4H9NO
reactant | triethylamine | 3.44 mmol, 479 μL | C(C)N(CC)CC | C6H15N
product | 2,6-dichloro- -(4-morpholinylsulfonyl)-3-nitrobenzene | 430 mg, 73% | ClC1=C(C(=CC=C1[N+](=O)[O-])Cl)S(=O)(=O)N1CCOCC1 | C10H10Cl2N2O5S
